US08470820B2
Step 2: 1-Pyridin-2-yl-1H-imidazol-4-ylamine
To a solution of 2-(4-nitro-imidazol-1-yl)-pyridine (150 mg, 0.79 mmol) in THF (12 ml) was added under inert gas atmosphere 10% Pd/C (28 mg, 0.026 mmol). Upon evacuation, the reaction vessel was charged with hydrogen and the reaction mixture was stirred at ambient temperature overnight. The catalyst was filtered off, the solvent volume was reduced and the amine was used without any further purification as ˜0.2 M THF solution for the next step.

reactant | 2-(4-nitro-imidazol-1-yl)-pyridine | 0.79 mmol, 150 mg | [N+](=O)([O-])C=1N=CN(C1)C1=NC=CC=C1 | C8H6N4O2
reactant | hydrogen | [H][H] | H2
solvent | THF | 12 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.026 mmol, 28 mg | [Pd] | Pd
product | 1-Pyridin-2-yl-1H-imidazol-4-ylamine | N1=C(C=CC=C1)N1C=NC(=C1)N | C8H8N4
